US04212763
Methanethiol is passed into a solution of 18.5 g of cyanuric chloride in 200 ml of acetone at a temperature of -25° to -30° C. 13.5 ml of collidine are then added slowly at the same temperature, whereupon collidine hydrochloride precipitates. The mixture is left to stand for 1 hour at 0° C. and is then poured onto ice, whereupon a white crystalline substance precipitates. After filtering the mixture, washing the product with water and drying it in a desiccator, 17.5 g of 2-methylthio-4,6-dichloro-1,3,5-triazine with a melting point of 57° to 59° C. are obtained.

reactant | Methanethiol | CS | CH4S
reactant | cyanuric chloride | 18.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | collidine | 13.5 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | collidine hydrochloride | Cl.N1=C(C=C(C=C1C)C)C
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-methylthio-4,6-dichloro-1,3,5-triazine | 17.5 g | CSC1=NC(=NC(=N1)Cl)Cl | C4H3Cl2N3S
